US07214746B2
tert-Butyl[di(1H-inden-2yl)]phosphine (15).
To 15.61 g (0.080 mol) of 2-bromo-1H-indene and 1.38 g (1.19 mmol) of Pd(PPh3)4 in 60 ml of toluene, 22.3 ml (16.19 g, 0.160 mol) of Et3N and 3.60 g (0.040 mol) of tBuPH2 were added. This mixture was refluxed for 24 hours, cooled to room temperature, and passed through short column with Silica Gel using 200 ml of toluene as eluent. The filtrate was evaporated to dryness to give oil, which after treatment with 150 ml of hot ethanol gave a gray precipitate. This precipitate was separated (G3), washed with 3×5 ml of cold ethanol and dried in vacuum. Yield 10.83 g (85%) of 15.

reactant | 2-bromo-1H-indene | 0.080 mol, 15.61 g | BrC=1CC2=CC=CC=C2C1 | C9H7Br
reactant | Et3N | 0.160 mol, 22.3 ml, 16.19 g | CCN(CC)CC | C6H15N
reactant | tBuPH2 | 0.040 mol, 3.60 g | C(C)(C)(C)P | C4H11P
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 1.19 mmol, 1.38 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl[di(1H-inden-2yl)]phosphine | C(C)(C)(C)P(C=1CC2=CC=CC=C2C1)C=1CC2=CC=CC=C2C1 | C22H23P
